US04707481
Example 2: 6-(4-Ethoxy-3-methoxyphenyl)-3[2H]pyridazinone
4.5 g of 4-(4-ethoxy-3-methoxyphenyl)-2-morpholino-4-oxobutyric acid are boiled under reflux in 30 ml of 1-butanol with 6.7 g of 100% pure hydrazine hydrate for 8 hours. The reaction mixture is then evaporated in vacuo; the residue is boiled up in 100 ml of 2N hydrochloric acid, filtered off with suction and washed with water until free from acid. After drying, 2.1 g (65.6% of theory) of the title compound of m.p. 182°-184° are obtained; after recrystallization from ethanol/ethyl acetate, the product has a melting point of 186°.

reactant | 4-(4-ethoxy-3-methoxyphenyl)-2-morpholino-4-oxobutyric acid | 4.5 g | C(C)OC1=C(C=C(C=C1)C(CC(C(=O)O)N1CCOCC1)=O)OC | C17H23NO6
reactant | hydrazine hydrate | 6.7 g | O.NN
solvent | 1-butanol | 30 ml | C(CCC)O | C4H10O
product | 6-(4-Ethoxy-3-methoxyphenyl)-3[2H]pyridazinone | C(C)OC1=C(C=C(C=C1)C=1C=CC(NN1)=O)OC | C13H14N2O3
